US07465815B2
4,6,7-Trimethyl-3-phenyl-2,3-dihydro-1-benzofuran
Using 2-(2-hydroxy-1-(phenyl)ethyl)-3,5,6-trimethylphenol obtained in Reference Example 231, the title compound was synthesized in the same manner as in Reference Example 13. Yield 95%. Melting point: 72-73° C. (methanol).

reactant | 2-(2-hydroxy-1-(phenyl)ethyl)-3,5,6-trimethylphenol | OCC(C1=CC=CC=C1)C1=C(C(=C(C=C1C)C)C)O | C17H20O2
solvent | methanol | CO | CH4O
product | 4,6,7-Trimethyl-3-phenyl-2,3-dihydro-1-benzofuran | Yield 95% | CC1=CC(=C(C2=C1C(CO2)C2=CC=CC=C2)C)C | C17H18O
